US07087754B2
N-((3-(6-Amino-4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-1-ylmethyl)phenyl-2-thiophenesulphonamide (Example 54)
A solution of 1-(3-aminobenzyl)-4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine (153 mg, 0.5 mmol) in pyridine (2 mL) was treated with 2-thiophenesulphonyl chloride (91 mg, 0.5 mmol), stirred at room temperature for 16 h, poured into water, extracted with EtOAc, dried (MgSO4), concentrated in vacuo and purified by chromatography (MeOH:DCM, 1:99) to give the title compound (49 mg, 22%) as a cream solid.

reactant | 1-(3-aminobenzyl)-4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-6-amine | 0.5 mmol, 153 mg | NC=1C=C(CN2N=CC=3C2=NC(=NC3C=3OC=CC3)N)C=CC1 | C16H14N6O
reactant | 2-thiophenesulphonyl chloride | 0.5 mmol, 91 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
reactant | water | O | H2O
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 3-(6-Amino-4-(2-furyl)-1H-pyrazolo[3,4-d]pyrimidine-1-ylmethyl)phenyl-2-thiophenesulphonamide | 49 mg, 22% | NC1=NC(=C2C(=N1)N(N=C2)CC=2C=C(C=CC2)C2=C(SC=C2)S(=O)(=O)N)C=2OC=CC2 | C20H16N6O3S2
